US04743692
N-[4-(5-bromo-3-methyl-2-pyridinyl)butyl]-1,2-benzisothiazol-3-amine 1,1-dioxide
To a refluxing solution of 4-(5-bromo-3-methyl-2-pyridinyl)butylamine (1.87 g, 7.69 mmol) in chloroform (80 ml, freed of EtOH by passage through Woelm Grade I neutral alumina) was added over 50 minutes a solution of 3-chloro-1,2-benzisothiazole-1,1-dioxide (U.S. Pat. No. 4,490,527) (1.55 g, 7.69 mmol) in chloroform (50 ml, purified as above) while maintaining reflux. After the addition was complete, reflux was continued for another 15 minutes. Evaporation in vacuo gave a yellow orange foam. Crystallization from 2-propanol and recrystallization from methanol/methylene chloride/2-propanol (Norite) gave 2.07 g of the title compound as a tan solid hydrochloride: m.p. 232°-244° C., IR(KBr) 3070, 1610, 1578, 1508, 1280, 1140 cm-1. 1H NMR (Me2SO d6) 9.85 (1H, t), 8.70 (1H, s), 8.33 (1H, m), 8.27 (1H, s), 7.88 (3H, m) 3.40 (2H, m), 2.90 (2H, m), 2.37 (3H, s), 1.70 (4H, m).

reactant | 4-(5-bromo-3-methyl-2-pyridinyl)butylamine | 7.69 mmol, 1.87 g | BrC=1C=C(C(=NC1)CCCCN)C | C10H15BrN2
reactant | 3-chloro-1,2-benzisothiazole-1,1-dioxide | ClC1=NS(C2=C1C=CC=C2)(=O)=O | C7H4ClNO2S
solvent | chloroform | 80 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | N-[4-(5-bromo-3-methyl-2-pyridinyl)butyl]-1,2-benzisothiazol-3-amine 1,1-dioxide | 2.07 g | BrC=1C=C(C(=NC1)CCCCNC1=NS(C2=C1C=CC=C2)(=O)=O)C | C17H18BrN3O2S
